US07407961B2
3-Amino-5-(4-fluorophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxylic acid (25 g) was suspended in 1,2-dichlorobenzene (125 ml). The suspension was heated at 165-170° C. with stirring for 4 hours. The reaction mixture was cooled to 20-25° C. To the cooled mixture was added IPE (250 ml). The suspension was stirred at 25-30° C. for 3 hours. The precipitate was collected by filtration and dried in vacuo. The above dried precipitate was purified by chromatography on silica gel (500 g) eluting with CHCl3:MeOH (9:1, 21). Evaporation of solvent in vacuo gave yellowish crystal residue, which was recrystallized from 70% EtOH (322 ml) to give 5-[5-amino-3-(4-fluorophenyl)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone as yellowish crystal (19.4 g).

reactant | 3-Amino-5-(4-fluorophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxylic acid | 25 g | NC=1C(=NC(=C(N1)C1=CC=C(C=C1)F)C1=CN(C(C=C1)=O)C(C)C)C(=O)O | C19H17FN4O3
solvent | 1,2-dichlorobenzene | 125 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-[5-amino-3-(4-fluorophenyl)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 19.4 g | NC=1N=C(C(=NC1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=C(C=C1)F | C18H17FN4O
